US04448776
6.15 g of N,N'-dibenzyl-N-methyl-ethylenediamine are dissolved in 60 ml of diethyl ether. Hydrogen chloride is then introduced while stirring and cooling (if necessary in an acetone/dry-ice bath) until a sample, dried on a clay plate, melts at 227°-229° C. The precipitated product is filtered with suction, washed with ether and dried to constant weight under reduced pressure (under 0.1 mbar). N,N'-dibenzyl-N-methyl-ethylenediamine dihydrochloride is obtained, m.p. 227°-229° C.

reactant | N,N'-dibenzyl-N-methyl-ethylenediamine | 6.15 g | C(C1=CC=CC=C1)N(CCNCC1=CC=CC=C1)C | C17H22N2
reactant | Hydrogen chloride | Cl | ClH
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | N,N'-dibenzyl-N-methyl-ethylenediamine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(CCNCC1=CC=CC=C1)C | InChI=1S/C17H22N2.2ClH/c1-19(15-17-10-6-3-7-11-17)13-12-18-14-16-8-4-2-5-9-16;;/h2-11,18H,12-15H2,1H3;2*1H
